US07393858B2
Methyl (2R,3R,4R)-2-{(1R)-1-[3,5-Bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-carboxylate
Trimethylsilyldiazomethane (2.0M in hexanes, 3.5 mL, 7 mmol) was added in portions over 1 hour to a solution of (2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxylic acid (WO 00/56727A1; 3.2 g, 6.9 mmol) in a mixture of methanol (10 mL) and toluene (7 mL). The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane (80:20), to give the title compound as a colorless solid (2.4 g, 73%).

reactant | Trimethylsilyldiazomethane | 7 mmol, 2.0M, 3.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxylic acid | 6.9 mmol, 3.2 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)(F)F | C22H20F6O4
solvent | methanol | 10 mL | CO | CH4O
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl (2R,3R,4R)-2-{(1R)-1-[3,5-Bis(trifluoromethyl)phenyl]ethoxy}-tetrahydro-3-phenyl-2H-pyran-4-carboxylate | 2.4 g, 73% | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)(F)F | C23H22F6O4
